US05102890
The procedure is as in Example 1, but starting with 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (9.9 g) in anhydrous dimethylformamide (100 cc), 4-isobutyrylaminobutyric acid (5.2 g) and 1,8-diazabicyclo[5.4.0]undec-7-ene (4.6 g). The residue obtained is recrystallized in acetonitrile and then purified by chromatography on silica (0.063-0.2 mm; 130 g) contained in a column 3 cm in diameter [eluant: methylene chloride/methanol (98:2 by volume) mixture] collecting 25-cc fractions. Fractions 79 to 85 are combined and concentrated to dryness under reduced pressure (2.7 kPa). The residue obtained is crystallized by stirring in isopropyl ether. 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-isobutyrylaminobutyrate (5.5 g), m.p. 208° C., is thereby obtained.

reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 9.9 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | 4-isobutyrylaminobutyric acid | 5.2 g | C(C(C)C)(=O)NCCCC(=O)O | C8H15NO3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.6 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dimethylformamide | 100 cc | CN(C=O)C | C3H7NO
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-oxo-1-isoindolinyl 4-isobutyrylaminobutyrate | 5.5 g | C(C(C)C)(=O)NCCCC(=O)OC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C24H23ClN4O4
